US05135774
Preparation of 2-(2-Naphthoxy) Ethanol
The reaction set-up consisted of a three necked round bottom flask, equipped with a thermometer, condenser and a mechanical stirrer, and a dropping funnel. 2-Naphthol, 100 g (0.6936 moles), was dissolved in 60 mL of dimethyl sulfoxide. Sodium hydroxide, 27.7 g (0.6936 moles), was carefully added to the solution. Then 2-chloroethanol, 61.4 g (0.7629 moles), was slowly added, keeping the reaction temperature at 80 C. The reaction was followed by GC. After 80% conversion was achieved, the reaction was worked-up by adding toluene and extracting the unreacted naphthol with 5% aqueous NaOH. The product was then recrystallized in ethanol or distilled under vacuum (70-80% yield).

reactant | 2-Naphthol | C1=C(C=CC2=CC=CC=C12)O | C10H8O
reactant | Sodium hydroxide | [OH-].[Na+]
reactant | 2-chloroethanol | ClCCO | C2H5ClO
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | dimethyl sulfoxide | 60 mL | CS(=O)C | C2H6OS
product | 2-(2-Naphthoxy) Ethanol | 70-80% yield | C1=C(C=CC2=CC=CC=C12)OCCO | C12H12O2
